US03946111
1,2-Dihydro-9-hydroxy-1-methyl-7-(3-methyl-2-octyl)-4-oxo4H-thieno-[2,3-c][1] benzopyran
A solution in dry benzene of equimolar amounts of methyl 4-methyl-3-oxo-tetrahydrothiophene-2-carboxylate and 5-(3-methyl-2-octyl) resorcinol plus phosphorous oxychloride (5 ml. of benzene/g. of the resorcinol) was warmed for 13 days at 35°-37°C. in an oil bath. Most of the benzene and HCl were removed at reduced pressure, and the dark tarry residue was stirred with ether and water until solution was complete. The ether layer was washed successively with dilute solutions of sodium bicarbonate, sodium hydroxide and sodium carbonate, then with water and saturated sodium chloride. Drying and concentrating the final organic solution left a friable brick-red foamy solid.

reactant | methyl 4-methyl-3-oxo-tetrahydrothiophene-2-carboxylate | CC1C(C(SC1)C(=O)OC)=O | C7H10O3S
reactant | 5-(3-methyl-2-octyl) resorcinol | CC(C(C)C=1C=C(C=C(O)C1)O)CCCCC | C15H24O2
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1,2-Dihydro-9-hydroxy-1-methyl-7-(3-methyl-2-octyl)-4-oxo4H-thieno-[2,3-c][1] benzopyran | OC1=CC(=CC2=C1C1=C(C(O2)=O)SCC1C)C(C)C(CCCCC)C | C21H28O3S
